US07271262B2
(3-Amino-2-chloro-phenyl)-(4-amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-methanone
The title compound was prepared from 5-Bromo-4-chloro-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine and 2-Chloro-N-methoxy-N-methyl-3-nitro-benzamide by procedures analogous to those described for the preparation of (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-2-methyl-phenyl)-methanone. MS: 330.3 (MH+); HPLC Rf: 1.6 min. (HPLC HPLC purity: 99%.

reactant | 5-Bromo-4-chloro-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine | BrC1=CN(C=2N=CN=C(C21)Cl)C(C)C | C9H9BrClN3
reactant | 2-Chloro-N-methoxy-N-methyl-3-nitro-benzamide | ClC1=C(C(=O)N(C)OC)C=CC=C1[N+](=O)[O-] | C9H9ClN2O4
reactant | (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-2-methyl-phenyl)-methanone | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=C(C(=CC=C2)N)C)C(C)C | C17H19N5O
product | (3-Amino-2-chloro-phenyl)-(4-amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-methanone | NC=1C(=C(C=CC1)C(=O)C1=CN(C=2N=CN=C(C21)N)C(C)C)Cl | C16H16ClN5O
